US09102692B2
A mixture solution of 5-iodo-2-methyl-1H-benzimidazole (10 g, 39 mmol), trimethoxy-methane (200 ml), and chlorotrimethylsilane (0.075 ml, 0.59 mmol) was heated and stirred at 100° C. for five hours under a nitrogen atmosphere while distilling off the solvent (a reaction conversion rate of 97%). The reaction mixture was cooled to 40° C., and then a tetrahydrofuran solution (0.87 ml, 0.87 mmol) of potassium tert-butoxide was added thereto. This was concentrated under reduced pressure to provide crude 1-dimethoxymethyl-5-iodo-2-methyl-1H-benzimidazole.

reactant | 5-iodo-2-methyl-1H-benzimidazole | 39 mmol, 10 g | IC1=CC2=C(NC(=N2)C)C=C1 | C8H7IN2
reactant | chlorotrimethylsilane | 0.59 mmol, 0.075 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | tetrahydrofuran | 0.87 mmol, 0.87 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | trimethoxy-methane | 200 ml | COC(OC)OC | C4H10O3
product | 1-dimethoxymethyl-5-iodo-2-methyl-1H-benzimidazole | COC(N1C(=NC2=C1C=CC(=C2)I)C)OC | C11H13IN2O2
